US05322528
Preparation of 9,9,10,10-Tetrakis (4-hydroxyphenyl)anthracene
A mixture of 7.6 g 10,10-bis (p-hydroxyphenyl) anthrone, 10 ml alcohol, and 100 ml 10% sodium hydroxide solution was refluxed and 30 ml dimethyl sulfate was added gradually. It was heated for 1 h and the crystalline precipitate was recrystallized from acetic acid to give a white product. MP=208°-209° C.

reactant | 10,10-bis (p-hydroxyphenyl) anthrone | 7.6 g | OC1=CC=C(C=C1)C1(C=2C=CC=CC2C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)O | C26H18O3
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | dimethyl sulfate | 30 ml | S(=O)(=O)(OC)OC | C2H6O4S
product | 9,9,10,10-Tetrakis (4-hydroxyphenyl)anthracene | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C(C=2C=CC=CC12)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C38H28O4
